US07465736B2
Step-1: 3-(1H-1,2,4-triazol-1-yl)propanenitrile
A mixture of 1,2,4-triazole (25 g, 0.362 mol) and acrylonitrile (100 mL, 4 w/v) was heated up to 80° C. under nitrogen for 16 h. The reaction mixture was then concentrated under reduced pressure to remove the excess of acrylonitrile affording 41 g of the title compound as a colourless liquid (93%). It was used in the next step without further purification.

reactant | 1,2,4-triazole | 0.362 mol, 25 g | N1N=CN=C1 | C2H3N3
reactant | acrylonitrile | 100 mL | C(C=C)#N | C3H3N
product | 3-(1H-1,2,4-triazol-1-yl)propanenitrile | N1(N=CN=C1)CCC#N | C5H6N4
